US07094790B2
5-Bromo-2-[2-(2-(R)-methyl-pyrrolidin-1-yl)-ethyl]-benzothiazole
A solution of 2-(5-bromo-benzothiazol-2-yl)-ethanol (1.50 g, 5.8 mmol) and triethylamine (1.33 g, 11.6 mmol) in CH2Cl2 was cooled to 0° C., and mesyl chloride was added dropwise. The mixture was warmed to room temperature and stirred for 1 hr. The solvent was removed under vacuum, and to the residue was added acetonitrile (20 mL), triethylamine (1.33 g, 11.6 mmol) 2-(R)-methylpyrrolidine hydrochloride (2.83 g, 23.2 mmol) to the mixture, and the mixture was stirred at 60° C. for 1 hr. Solvents were removed under vacuum, and the residue was dissolved in 20 mL methylene chloride and washed with 10 mL water. The aqueous layer was re-extracted with 10 mL methylene chloride. The combined methylene chloride extracts were concentrated to give a crude product yield 1.9 g (100%)

reactant | 2-(5-bromo-benzothiazol-2-yl)-ethanol | 5.8 mmol, 1.50 g | BrC=1C=CC2=C(N=C(S2)CCO)C1 | C9H8BrNOS
reactant | triethylamine | 11.6 mmol, 1.33 g | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
reactant | triethylamine | 11.6 mmol, 1.33 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-Bromo-2-[2-(2-(R)-methyl-pyrrolidin-1-yl)-ethyl]-benzothiazole | yield 1.9 g, 100% | BrC=1C=CC2=C(N=C(S2)CCN2[C@@H](CCC2)C)C1 | C14H17BrN2S
